US05032634
Monooctyltin trichloride, 338.3 grams (1.0 mole), was added to a solution of 120.0 grams (3.0 moles) sodium hydroxide in 700 ml water, in a suitable reaction vessel, at such a rate that the exothermic reaction could be controlled at or below 75° C. This was followed by addition of 622.5 grams (3.0 moles) of isooctylthioglycolate. On continued stirring at or below 75° C., the reaction was deemed complete when all solid dioctyltin oxide hd been consumed. The resulting mixture was allowed to phase split. After discharging the aqueous by-product, vacuum stripping and filtering the resulting oily liquid, 851.2 grams of monooctyl tin tris(isooctylthioglycolate) was obtained.

reactant | Monooctyltin trichloride | C(CCCCCCC)[Sn](Cl)(Cl)Cl
reactant | sodium hydroxide | 3.0 moles, 120.0 grams | [OH-].[Na+]
reactant | isooctylthioglycolate | 3.0 moles, 622.5 grams | C(CCCCC(C)C)C(C(=O)[O-])S
reactant | dioctyltin oxide | C(CCCCCCC)[Sn](CCCCCCCC)=O
solvent | water | 700 ml | O | H2O
product | monooctyl tin tris(isooctylthioglycolate) | 851.2 grams | C(CCCCC(C)C)C(C(=O)[O-])S.C(CCCCC(C)C)C(C(=O)[O-])S.C(CCCCC(C)C)C(C(=O)[O-])S.C(CCCCCCC)[Sn+3] | InChI=1S/3C10H20O2S.C8H17.Sn/c3*1-8(2)6-4-3-5-7-9(13)10(11)12;1-3-5-7-8-6-4-2;/h3*8-9,13H,3-7H2,1-2H3,(H,11,12);1,3-8H2,2H3;/q;;;;+3/p-3
